US05633279
Freshly distilled diisopropylamine (0.425 ml) was dissolved in anhydrous THF (10 ml) and cooled to 0° C. n-BuLi (0.63 ml, 2.35M) was added slowly and the reaction was stirred at 0° C. for 20 minutes and cooled to -78°. Ethyl isobutyrate (0.200 ml) was added and the resulting solution was stirred at -78° C. for 40 minutes. A solution of (E)-4-(1,3-dihydro-6-methoxy -4-methoxyethoxymethoxy-7-methyl-3-oxoisobenzofuran-5-yl) -2-methylbut-2-enaldehyde (365 mg) in THF (10 ml) was added and stirred for 30 min. The reaction mixture was poured to a concentrated solution of NH4Cl, and extracted with ethyl acetate (3×30 ml), the organic layers were dried over Na2SO4, and evaporated to give 420 mg (87%) of ethyl (E)-6-(1,3-dihydro-4-methoxyethoxymethoxy-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl) -2,2,4-trimethyl-3-hydroxy-4-hexenoate as an oil.

reactant | diisopropylamine | 0.425 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 2.35M, 0.63 ml | [Li]CCCC
reactant | Ethyl isobutyrate | 0.200 ml | C(C(C)C)(=O)OCC | C6H12O2
reactant | (E)-4-(1,3-dihydro-6-methoxy -4-methoxyethoxymethoxy-7-methyl-3-oxoisobenzofuran-5-yl) -2-methylbut-2-enaldehyde | 365 mg | COC1=C(C(=C2C(OCC2=C1C)=O)OCOCCOC)C/C=C(/C=O)\C | C19H24O7
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | ethyl (E)-6-(1,3-dihydro-4-methoxyethoxymethoxy-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl) -2,2,4-trimethyl-3-hydroxy-4-hexenoate | 420 mg, 87% | COCCOCOC1=C2C(OCC2=C(C(=C1C/C=C(/C(C(C(=O)OCC)(C)C)O)\C)OC)C)=O | C25H36O9
